US07951805B2
SYNTHESIS OF 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE HYDROCHLORIDE
Following the procedure as described in Example 1, making variations only as required to use 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide in place of 6-chloropyridazine-3-carboxylic acid (2-cyclopropylethyl)amide to react with piperidin-4-yl-(2-trifluoromethylphenyl)amine, the title compound was obtained as a white powder in 38% yield. m.p. 117-121° C. 1H NMR (300 MHz, DMSO-d6) δ 8.73 (br., s, 1H), 7.90 (d, J=9.3 Hz, 1H), 7.62 (d, J=9.6 Hz, 1H), 7.46-7.37 (m, 2H), 6.99 (d, J=8.4 Hz, 1H), 6.68 (t, J=7.5 Hz, 1H), 4.42 (d, J=13.2 Hz, 2H), 3.82 (br., s, 2H), 3.29-3.22 (m, 3H), 1.98 (d, J=11.7 Hz, 2H), 1.61-1.54 (m, 4H), 1.20-1.13 (m, 2H), 0.65-0.63 (m, 1H), 0.33-0.26 (m, 2H), −0.03-−0.05 (m, 2H). 13C NMR (75 MHz, DMSO-d6) δ 162.1, 157.4, 144.4, 144.1, 133.6, 126.4, 126.3, 116.3, 115.6, 113.0, 112.0, 48.9, 44.4, 31.4, 30.6, 29.2, 10.4, 4.3. MS (ES+) m/z 448.0 (M+1-HCl).

reactant | 6-chloropyridazine-3-carboxylic acid (3-cyclopropylpropyl)amide | C1(CC1)CCCNC(=O)C=1N=NC(=CC1)Cl | C11H14ClN3O
reactant | piperidin-4-yl-(2-trifluoromethylphenyl)amine | N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | C12H15F3N2
product | 6-[4-(2-TRIFLUOROMETHYLPHENYLAMINO)PIPERIDIN-1-YL]PYRIDAZINE-3-CARBOXYLIC ACID (3-CYCLOPROPYLPROPYL)AMIDE HYDROCHLORIDE | 38% yield | Cl.C1(CC1)CCCNC(=O)C=1N=NC(=CC1)N1CCC(CC1)NC1=C(C=CC=C1)C(F)(F)F | InChI=1S/C23H28F3N5O.ClH/c24-23(25,26)18-5-1-2-6-19(18)28-17-11-14-31(15-12-17)21-10-9-20(29-30-21)22(32)27-13-3-4-16-7-8-16;/h1-2,5-6,9-10,16-17,28H,3-4,7-8,11-15H2,(H,27,32);1H
